Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Elective admission for EPOCH
 
Major Surgical or Invasive Procedure:
Peripherally inserted central catheter insertion and removal
 
History of Present Illness:
Mr. ___ is a ___ with mantle cell lymphoma s/p dose-dense 
R- CHOP x6, Velcade/Revlimid x5, and Bendamustine/Rituxan x10 
who is now admitted for EPOCH therapy in the setting 
radiographic evidence of disease progression. In brief, he first 
developed mantle cell lymphoma in ___, with extensive 
retroperitoneal, mesenteric, axillary, and left hilar 
lymphadenopathy, as well as colonic intussusception with 
increased thickness of the colonic wall, and bone marrow 
involvement, prompting dose-dense R-CHOP x6 at that time, 
concluding ___. He was monitored with serial imaging until 
___, at which time multiple new FDG-avid sites, particularly in 
the submandibular, cervical, and supraclavicular chains, were 
found with disease recurrence below the diaphragm, with biopsy 
of the lymphoid mass in the left submandibular triangle 
demonstrating mantle cell lymphoma, blastoid variant, with MIB 
as high as 80% and p53 positivity. In place of cytoreduction 
followed by non-myeloablative allogeneic stem cell transplant, 
he elected to enroll in a trial of Velcade and Revlimid at ___, 
completing 5 cycles prior to withdrawal due to several adverse 
effects (peripheral neuropathy, weight loss, nausea, gastritis), 
with partial response. When PET-CT in ___ revealed increased 
retroperitoneal and mesenteric
lymphadenopathy with associated rise in creatinine, he was 
treated with Bendamustine/Rituxan x5, beginning in ___. 
Although colonoscopy in ___ revealed mantle cell lymphomatous 
involvement, he opted for continued surveillance at that time. 
In ___, he developed fatigue, fevers, and abdominal pain in the 
setting of cytopenias and rising LDH, prompting 
Bendamustine/Rituxan after x5. Most recently, CT abdomen/pelvis 
on ___ in the setting of worsening diffuse abdominal pain 
(particularly intense in the evening and exacerbated by lying 
down), nausea, and intermittent emesis x1-2 weeks revealed 
progression of his disease. He is now admitted for EPOCH 
therapy.
 
Past Medical History:
Mantle Cell Lymphoma
Hypertension
Chronic kidney injury
Erectile Dysfunction
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
On admission:
VITALS - 98.4, 126/64, 77, 18, 97% RA 
GENERAL - Well-appearing M who appears comfortable, appropriate 
and in NAD  
HEENT - PERRL, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no JVD, posterior neck soft tissue mass (patient 
indicates lipoma)  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 
well and symmetrically, resp unlabored, no accessory muscle use  

HEART - PMI non-displaced, RRR, S1-S2 clear and of good quality 
without murmurs, rubs or gallops  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric  

At discharge:
VITALS - 98.5, 132/78 (110s-130s/50s-70s), 89 (70s-80s), 18, 95% 
RA
GENERAL - Well-appearing M who appears comfortable, appropriate 
and in NAD  
HEENT - PERRL, EOMI, sclerae anicteric, MMM, OP clear, ulcerated 
facial lesions x2 (actinic keratoses s/p liquid nitrogen tx per 
patient)  
NECK - supple, no JVD, posterior neck soft tissue mass (patient 
indicates lipoma)  
LUNGS - Faint bibasilar crackles, moving air well and 
symmetrically, resp unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, S1-S2 clear and of good quality 
without murmurs, rubs or gallops  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, trace pitting edema bilaterally, 2+ 
peripheral pulses (radials, DPs)  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric  
 
Pertinent Results:
On admission:
___ 09:30AM BLOOD WBC-2.7* RBC-3.15* Hgb-10.4* Hct-29.0* 
MCV-92 MCH-33.2* MCHC-35.9* RDW-14.7 Plt ___
___ 09:30AM BLOOD Neuts-66 Bands-0 Lymphs-14* Monos-16* 
Eos-3 Baso-0 Atyps-1* ___ Myelos-0
___ 09:30AM BLOOD UreaN-24* Creat-1.7* Na-139 K-3.9 Cl-98 
HCO3-31 AnGap-14
___ 09:30AM BLOOD ALT-8 AST-27 LD(LDH)-404* AlkPhos-82 
TotBili-0.2
___ 09:30AM BLOOD Calcium-9.4 Phos-2.8 Mg-2.2

At discharge:
___ 06:00AM BLOOD WBC-4.9 RBC-2.46* Hgb-7.9* Hct-22.8* 
MCV-93 MCH-32.3* MCHC-34.9 RDW-14.3 Plt ___
___ 06:00AM BLOOD Neuts-97.0* Lymphs-2.1* Monos-0.9* Eos-0 
Baso-0
___ 06:00AM BLOOD ___ PTT-26.2 ___
___ 06:00AM BLOOD ___ 06:00AM BLOOD Glucose-120* UreaN-33* Creat-1.4* Na-137 
K-4.0 Cl-103 HCO3-28 AnGap-10
___ 06:00AM BLOOD ALT-9 AST-26 LD(LDH)-384* AlkPhos-66 
TotBili-0.3
___ 06:00AM BLOOD Calcium-8.5 Phos-4.3 Mg-1.9 UricAcd-7.8*

.

CT abdomen without contrast (___):
FINDINGS:
LUNG BASES:  Lung bases are included and show bilateral 
atelectatic scarring in the lung bases.  No suspicious pulmonary 
nodules or pleural effusions are seen, with the exception of a 
small 4-mm pulmonary nodule in the lower lobe of the right lung. 
 A large 2.4 x 2.1 cm lymph node is identified in the left 
paraaortic location.
 
ABDOMEN:  The liver and spleen are normal in size.  No focal 
hepatic lesions are identified on this unenhanced CT study with 
the exception of the presence of a 1.4 x 1.4 cm hepatic cyst in 
segment VI of the liver.  There is marked confluent 
lymphadenopathy in the small bowel mesentery both involving the 
jejunal and ileal mesentery.  The largest axial dimension of 
this mass measures 17.8 cm.  There is also marked bulky 
confluent lymphadenopathy in the retroperitoneum throughout all 
nodal stations.  The pancreas appears unremarkable.  The 
adrenals are normal in size.  Both kidneys are unremarkable, 
with absence of hydronephrosis.  A punctate calcification is 
identified in the lower pole of the right kidney.
 
In comparison with the prior PET-CT study, there is enlargement 
of the
previously described lymph node in the left para-aortic 
location.  There is
also a new large retrocrural aortic lymph node on the left 
measuring 2.5 x 2.4 cm which appears new.  Additional smaller 
retrocrural lymph nodes are seen which also appear new.  There 
is marked increase of the size of the confluent lymphadenopathy 
in the mesentery.  The largest axial dimension on the prior 
study measured 11 cm versus 17.8 cm on the current study.  There 
is also marked increase in the retroperitoneal lymphadenopathy 
as outlined above.
 
IMPRESSION:
1.  Marked interval progression in the size and extent of the 
lymphoma as
described above.
2.  Interval decrease of the size of the spleen when compared to 
the prior
study.
3.  Hepatic cyst in segment VI of the liver.
 
Portable CXR (___):
Right PICC tip is in the mid SVC.  Cardiac size is normal.  The 
lungs are
clear.  There is no pneumothorax or pleural effusion.
 
Brief Hospital Course:
Mr. ___ is a ___ with mantle cell lymphoma s/p dose-dense 
R- CHOP x6, Velcade/Revlimid x5, and Bendamustine/Rituxan x10 
who was admitted for EPOCH therapy in the setting radiographic 
evidence of disease progression. 

<< Active Issues:
#Mantle cell lymphoma: He received EPOCH therapy without 
complications or evidence of DIC or tumor lysis, with the 
exception of mildly elevated uric acid (7.3-9.1), for which he 
was maintained on renally dosed prophylactic allopurinol 
throughout admission and at discharge. Hematocrit downtrended 
from 29 on admission, essentially consistent with recent 
baseline, to 22.8 on the day of discharge (C1D6), for which he 
received 1 unit pRBC. White blood cell count uptrended from 2.7 
(___ 1782) on admission to 4.9 (___ 4753) at discharge, with 
initiation of Neupogen 480mcg SC daily on the day of discharge; 
patient opted to return to clinic for daily Neupogen injections 
post-discharge. Platelet count declined from 290 to 185 over the 
course of admission. Home prophylactic Bactrim was continued, 
and he remained afebrile/hemodynamically stable throughout 
admission. He was diuresed gently with IV Lasix to counter mild 
fluid overload.   

<< Inactive Issues:
#Chronic kidney injury: Creatinine of 1.7 on admission was 
essentially consistent with recent baseline of 1.5-1.7. Kidney 
injury has been present since ___ and was attributed at that 
time to disease progression, though most recent imaging 
demonstrated absence of renal involvement. Creatinine remained 
1.3-1.7 throughout admission on gentle IV hydration.

#Hypertension: He remained normotensive throughout admission on 
home hydrochlorothiazide.

#Actinic keratoses status post cryotherapy: Home topical 
mometasone was continued throughout admission.

<< Transitional Issues:
- He is to return to clinic for daily Neupogen injections until 
directed to discontinue by his primary hematologist.
- Code status: DNR/DNI.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dronabinol 5 mg PO Q4H:PRN nausea 
2. Hydrochlorothiazide 25 mg PO DAILY 
Hold for SBP<100 
3. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
4. Cialis *NF* (tadalafil) 20 mg Oral prn sexual activity 
5. mometasone *NF* 0.1 % Topical BID Reason for Ordering: Wish 
to maintain preadmission medication while hospitalized, as there 
is no acceptable substitute drug product available on formulary.
 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
Hold for SBP<100 
2. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
3. mometasone *NF* 0.1 % Topical BID Reason for Ordering: Wish 
to maintain preadmission medication while hospitalized, as there 
is no acceptable substitute drug product available on formulary.
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 4 hours Disp #*30 
Tablet Refills:*0
5. Cialis *NF* (tadalafil) 20 mg Oral prn sexual activity 
6. Dronabinol 5 mg PO Q4H:PRN nausea 
7. Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0
[8. Filgrastim 480 mcg SC Q24H - To return to clinic for daily 
injections] 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Mantle cell lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking part in your care during your admission 
to ___. As you know, you were 
admitted for treatment of your mantle cell lymphoma. You 
tolerated chemotherapy well without complications. You received 
a blood transfusion for a low red blood cell count on the day of 
discharge. You received a Neupogen injection at the hospital on 
the day of discharge and will continue to receive it on a daily 
basis in clinic until directed to discontinue by Dr. ___.

The following changes were made to your medications:
Please CONTINUE allopurinol ___ daily 
Please CONTINUE oxycodone as needed
 
Followup Instructions:
___